US05021430
0.85 g of N-[4-pivaloyloxymethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-(L)-leucine benzyl ester in 20 ml of ethanol is hydrogenated at atmospheric pressure in the presence of 0.1 g of 5% palladium on carbon. The reaction is filtered and evaporated to give N-[4-pivaloyloxymethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-(L)-leucine.

reactant | N-[4-pivaloyloxymethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-(L)-leucine benzyl ester | 0.85 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@H](C[C@H](CC1=CC=CC=C1)C(=O)OCOC(C(C)(C)C)=O)CC1=CC=CC=C1)=O)CC(C)C)=O | C38H47NO7
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | N-[4-pivaloyloxymethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-(L)-leucine | C(C(C)(C)C)(=O)OCOC(=O)[C@H](C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C31H41NO7
